US07361719B2
Under a nitrogen atmosphere, 400 mg (1.252 mmol) of 1-ethyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid were mixed with 0.349 ml (2.505 mmol) of triethylamine in a round flask of 50 ml and stirred at room temperature for 10 minutes. While the temperature of the inside of the container was kept at −10° C., 0.177 ml (1.252 mmol) of vinylbenzylchloride was slowly dripped thereinto. Under a nitrogen atmosphere, the reaction was conducted for three hours while keeping the temperature at −10° C., and then distilled water was added to the reactants which were then extracted with dichloromethane. The extracts were concentrated and then chromatographed (20 gm silica, 5% MeOH/CH2Cl2) to give 501 mg (91.9%) of 1-ethyl-6-fluoro-1,4-dihydro-7-[4-(4-vinylbenzyl)-1-piperazinyl]-4-oxo-3-quinoline carboxylic acid.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid | 1.252 mmol, 400 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
reactant | triethylamine | 2.505 mmol, 0.349 ml | C(C)N(CC)CC | C6H15N
reactant | vinylbenzylchloride | 1.252 mmol, 0.177 ml | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
solvent | water | O | H2O
product | 1-ethyl-6-fluoro-1,4-dihydro-7-[4-(4-vinylbenzyl)-1-piperazinyl]-4-oxo-3-quinoline carboxylic acid | 501 mg, 91.9% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC1=CC=C(C=C1)C=C)F)=O)C(=O)O | C25H26FN3O3
